US07101887B2
1-(4-chlorophenyl)-4-(4-chlorobenzyl)piperazine dihydrochloride (Compound I)
A mixture of 1-(4-chlorophenyl)piperazine (1.61 g, 0.01 mole), 4-chlorobenzyl chloride (2.10 g, 0.01 mole) and potassium carbonate (2 g) in acetonitrile (40 mL) is heated at reflux for 6 hours under a nitrogen atmosphere. After cooling, the reaction mixture is poured into water (50 mL) and ether (50 mL). The aqueous layer is discarded and the organic layer is extracted with 1 N aqueous hydrochloric acid solution. The acidic extract is neutralized with 6 N ammonium hydoxide solution and extracted with ether. The organic layer is dried (Na2SO4) and concentrated to provide the crude free base of the desired unsymmetrically substituted piperazine. This material is dissolved in warm isopropanol (10 mL) and treated with a 1 N solution of HCl in ether until acidic to pH paper. Upon cooling, crystals of dihydrochloride salt are collected (2.2 g, 56%).

reactant | 1-(4-chlorophenyl)piperazine | 0.01 mole, 1.61 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | 4-chlorobenzyl chloride | 0.01 mole, 2.10 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | water | 50 mL | O | H2O
product | 1-(4-chlorophenyl)-4-(4-chlorobenzyl)piperazine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C17H18Cl2N2.2ClH/c18-15-3-1-14(2-4-15)13-20-9-11-21(12-10-20)17-7-5-16(19)6-8-17;;/h1-8H,9-13H2;2*1H
